US06784192B2
5-(Methylsulfonyl)-2-methoxy-3-pyridinecarboxaldehyde dimethyl acetal
20 ml of tetrahydrofuran was cooled to −78° C., 4.17 ml of n-butyllithium (1.6 M, hexane solution) was added thereto, and the mixture was stirred. A solution of 1.59 g of 5-bromo-2-methoxy-3-pyridinecarboxaldehyde dimethyl acetal dissolved in 5 ml of tetrahydrofuran was added dropwise thereinto. After 30 minutes, 0.66 ml of dimethyldisulfide was added dropwise thereinto, and the mixture was further stirred for 1.5 hours. water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, to give a pale yellow oil. The oil was dissolved in 30 ml of dichloromethane, 5.12 g of sodium bicarbonate and 2.32 g of m-chloroperbenzoic acid were added thereto, and the mixture was stirred for 30 minutes under ice-cooling. An aqueous sodium thiosulfate was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, a 1N aqueous sodium hydroxide and brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1), to give 0.81 g of the title compound as a white solid.

reactant | n-butyllithium | 1.6 M, 4.17 ml | C(CCC)[Li]
reactant | 5-bromo-2-methoxy-3-pyridinecarboxaldehyde dimethyl acetal | 1.59 g | COC(C=1C(=NC=C(C1)Br)OC)OC | C9H12BrNO3
reactant | dimethyldisulfide | 0.66 ml | CSSC | C2H6S2
reactant | sodium bicarbonate | 5.12 g | C([O-])(O)=O.[Na+]
reactant | m-chloroperbenzoic acid | 2.32 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-(Methylsulfonyl)-2-methoxy-3-pyridinecarboxaldehyde dimethyl acetal | 0.81 g | COC(C=1C(=NC=C(C1)S(=O)(=O)C)OC)OC | C10H15NO5S
